US06194410B1
2.1 ml (33.4 mmol) of chloroacetonitrile were added to a solution of 4.6 g (42 mmol) of pyridine-3-sulphinic acid sodium salt in 50 ml of DMF and stirred at 90° for 1 hr. The reaction solution was evaporated, the residue was partitioned between H2O and CH2Cl2. The aqueous phase was washed three times with CH2Cl2. The combined organic phases were washed once with H2O, dried (MgSO4) filtered and evaporated. Chromatography (SiO2, AcOEt/hexane 2:1) yielded 4.1 g (80%) of (pyridine-3-sulphonyl)-acetonitrile as a beige solid.

reactant | chloroacetonitrile | 33.4 mmol, 2.1 ml | ClCC#N | C2H2ClN
reactant | pyridine-3-sulphinic acid sodium salt | 42 mmol, 4.6 g | [Na+].N1=CC(=CC=C1)S(=O)[O-]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | (pyridine-3-sulphonyl)-acetonitrile | 4.1 g, 80% | N1=CC(=CC=C1)S(=O)(=O)CC#N | C7H6N2O2S
